US09382236B2
(4) 5-[4-(2,3-Dimethylbenzoylamino)-3-methoxyphenyl]-1H-naphtho[1,2-b][1,4]diazepine-2,4(3H,5H)-dione
By using 5-(4-amino-3-methoxyphenyl)-1H-naphtho[2,1-b][1,4]diazepine-2,4(3H,5H)-dione, and 2,3-dimethylbenzoyl chloride, the title compound was obtained in the same manner as that of Example 1, (4).

reactant | 5-(4-amino-3-methoxyphenyl)-1H-naphtho[2,1-b][1,4]diazepine-2,4(3H,5H)-dione | NC1=C(C=C(C=C1)N1C2=C(NC(CC1=O)=O)C1=CC=CC=C1C=C2)OC | C20H17N3O3
reactant | 2,3-dimethylbenzoyl chloride | CC1=C(C(=O)Cl)C=CC=C1C | C9H9ClO
product | 5-[4-(2,3-Dimethylbenzoylamino)-3-methoxyphenyl]-1H-naphtho[1,2-b][1,4]diazepine-2,4(3H,5H)-dione | CC1=C(C(=O)NC2=C(C=C(C=C2)N2C3=C(NC(CC2=O)=O)C2=CC=CC=C2C=C3)OC)C=CC=C1C | C29H25N3O4
